Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS
==============
___ 08:12AM BLOOD WBC-7.0 RBC-4.36* Hgb-13.5* Hct-41.5 
MCV-95 MCH-31.0 MCHC-32.5 RDW-14.6 RDWSD-51.0* Plt ___
___ 08:12AM BLOOD ___
___ 08:12AM BLOOD Glucose-108* UreaN-16 Creat-0.9 Na-143 
K-4.7 Cl-105 HCO3-27 AnGap-11
___ 08:12AM BLOOD ALT-24 AST-23 AlkPhos-64 TotBili-2.6* 
DirBili-0.5* IndBili-2.1
___ 08:12AM BLOOD Lipase-10
___ 10:00AM BLOOD CK-MB-4 cTropnT-0.02*
___ 03:56PM BLOOD cTropnT-0.02*
___ 08:12AM BLOOD Calcium-9.1 Phos-2.9 Mg-2.0
___ 08:12AM BLOOD CRP-74.9*
___ 08:12AM BLOOD TSH-0.44

DISCHARGE LABS
==============
___ 08:35AM BLOOD WBC-6.2 RBC-4.53* Hgb-13.8 Hct-43.7 
MCV-97 MCH-30.5 MCHC-31.6* RDW-14.4 RDWSD-51.4* Plt ___
___ 08:35AM BLOOD Plt ___
___:35AM BLOOD Glucose-140* UreaN-18 Creat-1.0 Na-143 
K-4.3 Cl-105 HCO3-24 AnGap-14
___ 08:12AM BLOOD ALT-24 AST-23 AlkPhos-64 TotBili-2.6* 
DirBili-0.5* IndBili-2.1

IMAGING
=======
CXR ___
Comparison to ___.  No relevant change is seen.  
Moderate 
cardiomegaly persists.  No pulmonary edema.  Mild retrocardiac 
atelectasis.  No pleural effusions.  No pneumothorax. 

ABDOMINAL ULTRASOUND ___
IMPRESSION: 
1. No focal liver lesion, no gallstones and no biliary 
dilatation. 
2. Pulsatile flow in the main portal vein and a distended IVC 
are consistent with right heart failure. 
3. Splenomegaly.  Two slightly hyperechoic splenic lesions 
likely represent hemangiomas. 
4. Atherosclerotic ectatic distal aorta measuring up to 2.8 cm.  
Follow-up 
ultrasound in ___ years should be obtained to assess stability. 
5. Trace right and left pleural effusions. 
RECOMMENDATION(S):  Follow-up ultrasound of the aorta should be 
obtained in ___ years to assess stability. 

TTE ___
Quantitative biplane left ventricular ejection fraction is 52 % 
(normal 54-73%).IMPRESSION: Severe concentric left ventricular 
hypertrophy with mildly reduced global and normal regional left 
ventricular systolic function. Severely hypertrophied right 
ventricle with dilated right ventricle and mild global 
hypokinesis. Strain measurements are highly  Consistent with 
known amyloid cardiomyopathy. Dilated thoracic aorta. At least 
moderate pulmonary hypertension.

DISCHARGE PHYSICAL EXAM
=======================
24 HR Data (last updated ___ @ 738)
    Temp: 97.6 (Tm 98.3), BP: 128/78 (124-140/76-82), HR: 55
(55-67), RR: 20 (___), O2 sat: 97% (97-99), O2 delivery: Ra,
Wt: 199.51 lb/90.5 kg  
Fluid Balance (last updated ___ @ 922) 
  Last 8 hours  Total cumulative 0ml
    IN: Total 0ml
    OUT:  Total 0ml, Urine Amt 0ml
  Last 24 hours  Total cumulative -1000ml
    IN: Total 600ml, PO Amt 600ml
    OUT:  Total 1600ml, Urine Amt 1600ml, Emesis 0ml  
 
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
HEENT: Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no 
pallor
or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple with JVP of 10 cm.   
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills,
lifts.  
LUNGS: Resp were unlabored, no accessory muscle use. Mild fine
bibasilar crackles, no wheezes or rhonchi.  
ABDOMEN: Soft, mild epigastric tenderness. No HSM or tenderness. 

EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

 
Brief Hospital Course:
Brief Hospital Course:
======================
Mr. ___ is a ___ man with a history of HTN, HLD, CHF (LVEF 
40-45%, ___, single kidney d/t congenital anomaly, cardiac 
amyloidosis ddx ___ on PYP, who presented to the ___ 
emergency department from ___ with complaint of chest 
pain, fine crackles on lung exam and elevated JVP 12 appearing 
to be slightly volume up. There was initial concern for 
pericarditis and echocardiogram was obtained which demonstrated 
elevated filling pressures and signs of volume overload but 
otherwise no significant changes from previous transthoracic 
echocardiograms. He was given 20mg of IV Lasix to which he 
responded well with improvement in his symptoms. He was 
transitioned to 20mg PO Lasix on day of discharge for further 
diuresis with instructions to continue daily Lasix for 3 days 
after discharge followed by as needed Lasix dosing based on his 
dry weight obtained at home after completing his ___ day of 
daily dosing. While hospitalized he experienced LUQ pain and 
underwent abdominal ultrasound which demonstrated small splenic 
lesions likely hemangiomas and was otherwise unrevealing for 
cause of pt's pain which he noted did improve somewhat with 
movement of his bowels. Recommended he ensure adequate bowel 
movements and increase his daily fiber with further outpatient 
followup as needed. In addition he experience a slight gout 
flare following IV Lasix for which he was prescribed a 3-day 
course of colchicine. He was discharged home in stable condition 
with instructions regarding his as needed Lasix dosing to which 
he demonstrated good understanding. 

TRANSITIONAL ISSUES
===================
[] ___ NP f/u in ___ days for volume status exam, gout 
as well as ___ function and electrolytes given 
additional diuresis and colchicine. 
[] Primary care f/u for further workup and evaluation of 
patient's acute on chronic LUQ pain after pt continues with 
bowel regimen and increased fiber intake.
[] Abdominal ultrasound demonstrated atherosclerotic ectatic 
distal aorta measuring up to 2.8 cm.  Follow-up ultrasound in 
___ years should be obtained to assess stability. 

#Atypical chest pain
# TTR Amyloidosis: 
# HFrEF (LVEF 40-45%) 
Pt presented with atypical chest pain with EKG w/ no concerning 
STTWC, cardiac enzymes w/in normal limits, bedside TTE w/o 
evidence of effusion or tamponade. Though initially appearing 
euvolemic by exam, echocardiogram demonstrated elevated filling 
pressures and JVP on re-evaluation was thought to be elevated. 
Initial concern for pericarditis vs GI cause vs tifamidis AE was 
considered. Echo did not demonstrate pericarditis, no known AE 
of tifamidis causing GI discomfort or pericarditis and pt's 
symptoms of chest pain and pressure improved with diuresis 
lessoning c/f GI as underlying cause. His cardiologist Dr. ___ 
was notified regarding patient's status and hospitalization. He 
was continued on Eliquis for left arial contractile dysfunction. 

PRELOAD: Lasix (standing for 3 days post discharge then PRN) 
AFTERLOAD: lisinopril, eplerenone
NHBK: Held as BB CI in amyloid cardiomyopathy

#Gout
Pain in right great toe after receipt of Lasix concerning for 
gout flare. Prescribed colchicine upon discharge. 

#MGUS
Last seen by Oncologist Dr. ___ ___. At that time 
noted to have low M spike, no evidence of anemia, renal failure 
or hypercalcemia. No bone marrow biopsy was done. No B symptoms 
such as fever, night sweats or weight loss to suggest a 
lymphoproliferative disorder. 

#Abdominal pain 
Screening AAA US in ___ which was normal. History of congenital 
unilateral kidney, on right. History of hernia. History of 
functional intestinal d/o and colonic adenoma. Lipase and LFTS 
were within normal limits and abdominal ultrasound was 
ressuring. Suspect possible constipation given improvement in 
symptoms with bowel movement though further workup may be 
warranted given ongoing symptoms. Recommended increased fiber 
and ensuring regular bowel movements. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Eplerenone 25 mg PO DAILY 
3. Apixaban 5 mg PO BID 
4. Multivitamins 1 TAB PO DAILY 
5. tafamidis 61 mg oral DAILY 
6. Aspirin 81 mg PO ONCE 

 
Discharge Medications:
1.  Colchicine 0.6 mg PO DAILY 
For gout flare take 2 tabs. One hour later take 1 tab. Then take 
1 tab daily until flare is over.  
RX *colchicine 0.6 mg 1 tablet(s) by mouth once a day Disp #*10 
Capsule Refills:*0 
2.  Furosemide 20 mg PO DAILY:PRN weight gain  Duration: 1 Dose 
Please take for 2lb weight gain in 24-hours.  
RX *furosemide 20 mg 1 tablet(s) by mouth daily as needed Disp 
#*30 Tablet Refills:*0 
3.  Apixaban 5 mg PO BID  
4.  Aspirin 81 mg PO ONCE Duration: 1 Dose  
5.  Eplerenone 25 mg PO DAILY  
6.  Lisinopril 40 mg PO DAILY  
7.  Multivitamins 1 TAB PO DAILY  
8.  tafamidis 61 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
Acute Heart Failure Exacerbation

Secondary Diagnosis 
HTN
Cardiac amyloidosis
MGUS
Congenital solitary kidney

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?  
=====================================
- You were admitted to the hospital because you were having 
chest pain and tightness with breathing.
 
WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
============================================
- While in the hospital we did some tests and took pictures of 
your heart with an EKG and echocardiogram to look at how it is 
pumping and functioning.  
- We felt you had extra fluid in your body based on your exam 
and the echocardiogram of your heart and felt this was 
contributing to your symptoms. To help we gave you a dose of 
Lasix (water pill) which helped eliminate the extra fluid in 
your body and improved your symptoms. 
- Because you were also having abdominal pain, we did an 
ultrasound of your abdomen which showed some small lesions on 
your liver thought to be hemangiomas which do not require 
intervention. 
  
 WHAT SHOULD I DO WHEN I GO HOME?
================================== 
- You should continue to take your medications as prescribed.  
- If you are experiencing new or concerning chest pain that is 
coming and going you should call the heartline at ___. 
If you are experiencing persistent chest pain that isn’t getting 
better with rest or nitroglycerine you should call ___.  
- You should also call the heartline if you develop swelling in 
your legs, abdominal distention, or shortness of breath at 
night.  
- Please attend your appointments. 

Regarding your diuresis:
- Take 20mg of Lasix in the morning on ___ 
___, and ___ - then stop taking daily lasix. On 
___ morning, weigh yourself. This will be your "dry weight". 
- Weigh yourself every morning. If your weight increases by 2lbs 
or more, take 20mg of Lasix and make sure you start urinating 
more than usual. Weigh yourself the next day and if your weight 
is still above your dry weight by 2lbs or more, call your 
cardiologist or nurse practitioner for further guidance 
regarding your Lasix dosing. 

 We wish you the best!  
 Your ___ Care Team  
 
Followup Instructions:
___